US04957928
17.7 g (0.1 mol) of 3-(2-aminoethyl)chroman are dissolved in 100 ml of methanol, and then 10.5 g (0.1 mol) of triethylamine and 5.84 g (0.11 mol) of acrylonitrile are added to the solution. The reaction mixture is stirred for 15 hours at room temperature and then concentrated under a water-jet vacuum. The residue is taken up in diethyl ether and washed neutral with ice-water. The ethereal phase is dried over potassium carbonate and concentrated by evaporation. N-[2-(chroman-3-yl)ethyl]-N-(2-cyanoethyl)-amine is thus obtained in the form of a pale yellow oil.

reactant | 3-(2-aminoethyl)chroman | 0.1 mol, 17.7 g | NCCC1COC2=CC=CC=C2C1 | C11H15NO
reactant | triethylamine | 0.1 mol, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | acrylonitrile | 0.11 mol, 5.84 g | C(C=C)#N | C3H3N
solvent | methanol | 100 ml | CO | CH4O
product | N-[2-(chroman-3-yl)ethyl]-N-(2-cyanoethyl)-amine | O1CC(CC2=CC=CC=C12)CCNCCC#N | C14H18N2O
